US03994871
H-Cys-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys-Ser(But)-Leu-OH
0.47 g of H-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys(Trt)-Ser(But)-Leu-OH in 15 ml of trifluoroethanol are added over the course of 10 minutes to a vigorously stirred mixture of 18 ml of methylene chloride, saturated with iodine, and 180 ml of trifluoroethanol. 2 minutes after completion of the addition, a solution of 3.2 g of ascorbic acid in 60 ml of water and 30 ml of 1 M ammonium acetate are added, the solution is brought to pH 5.6 with dilute ammonia and the trifluoroethanol is very largely removed under reduced pressure. The mixture is then taken up in 100 ml of chloroform-methanol (95:5) and the organic phase is twice washed with water. After drying over sodium sulphate, the mixture is evaporated and the product shown in the title is purified by gel filtration on Sephadex-LH 20 (column: 2 × 100 cm). Eluant: chloroform-methanol (1:1).

reactant | H-Cys(Trt)-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys(Trt)-Ser(But)-Leu-OH | 0.47 g | N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C84H113N9O13S3
reactant | iodine | II | I2
reactant | ascorbic acid | 3.2 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | ammonia | N | H3N
solvent | trifluoroethanol | 15 ml | C(C(F)(F)F)O | C2H3F3O
solvent | water | 60 ml | O | H2O
solvent | ammonium acetate | 1 M, 30 ml | C(C)(=O)[O-].[NH4+]
solvent | trifluoroethanol | 180 ml | C(C(F)(F)F)O | C2H3F3O
solvent | methylene chloride | 18 ml | C(Cl)Cl | CH2Cl2
product | H-Cys-Cys(Acm)-Thr(But)-Ser(But)-Ile-Cys-Ser(But)-Leu-OH | N[C@@H](CS)C(=O)N[C@@H](CSCNC(=O)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CS)C(=O)N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C46H85N9O13S3
